US08252723B2
Cyclopropylmethyl [3-methyl-1-(4-methylpyridin-3-yl)-5-phenyl-1H-pyrazol-4-yl]acetate (see Table 3, Example 3-99)
0.296 g (2.575 mmol) of dichloro(methoxy)methane was added to 0.175 g (0.569 mmol) [3-methyl-1-(4-methylpyridin-3-yl)-5-phenyl-1H-pyrazol-4-yl]acetic acid, and the mixture was stirred at 60° C. for 2 h. Excess dichloro(methoxy)methane was removed under reduced pressure, 0.660 g (9.153 mmol) of cyclopropylmethanol was added to the residue and the mixture was stirred at 20° C. for 0.5 h. The solvent was removed under reduced pressure, a mixture of 10 ml of dichloromethane, 1.5 ml of diisopropylethylamine and 10 ml of water was added to the residue and the aqueous phase was extracted with 15 ml of dichloromethane. The combined organic phases were dried over sodium sulfate, and the solvent was removed under reduced pressure. Chromatography of the residue gave 0.123 g (59% of theory) of a colorless solid of m.p. 87° C.

reactant | dichloro(methoxy)methane | 2.575 mmol, 0.296 g | ClC(OC)Cl | C2H4Cl2O
reactant | [3-methyl-1-(4-methylpyridin-3-yl)-5-phenyl-1H-pyrazol-4-yl]acetic acid | 0.569 mmol, 0.175 g | CC1=NN(C(=C1CC(=O)O)C1=CC=CC=C1)C=1C=NC=CC1C | C18H17N3O2
reactant | cyclopropylmethanol | 9.153 mmol, 0.660 g | C1(CC1)CO | C4H8O
product | Cyclopropylmethyl [3-methyl-1-(4-methylpyridin-3-yl)-5-phenyl-1H-pyrazol-4-yl]acetate | CC1=NN(C(=C1CC(=O)OCC1CC1)C1=CC=CC=C1)C=1C=NC=CC1C | C22H23N3O2
